US04169105
Embodiments I-IV-Preparation of 3-methyl-2-butenyl cyanoacetate
Cyanoacetic acid (25.9 mmol), 3-methyl-2-butenyl chloride (24.9 mmol), triethylamine (25.7 mmol) and a solvent (30 ml) were placed in a 50-ml flask equipped with a magnetic stirrer and a reflux condenser. The mixture was heated until no more of the title ester was formed. The Table states the solvents, temperatures and heating times used and presents the results. In all cases, the conversion of the 3-methyl-2-butenyl chloride was higher than 85%.

reactant | Cyanoacetic acid | 25.9 mmol | C(#N)CC(=O)O | C3H3NO2
reactant | 3-methyl-2-butenyl chloride | 24.9 mmol | CC(=CCCl)C | C5H9Cl
reactant | triethylamine | 25.7 mmol | C(C)N(CC)CC | C6H15N
product | 3-methyl-2-butenyl cyanoacetate | C(#N)CC(=O)OCC=C(C)C | C8H11NO2
